data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4588,5233,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH:11](=[O+:12][N-:13][c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[N:13]([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[O:12][CH:11]2[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1,water,298.15,27.970717856389665,-17.718206070506014
3959,4532,[CH3:9][O:10][C:11](=[O:12])[N-:13][NH+:14]=[C:15]([C:16]#[N:17])[C:18](=[O:19])[O:20][CH3:21].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@@H:5]([C:6](=[O:7])[O-:8])[N:13]([C:11]([O:10][CH3:9])=[O:12])[NH:14][C:15]1([C:16]#[N:17])[C:18](=[O:19])[O:20][CH3:21],water,298.15,24.48985196386964,-15.671442334631006
1623,1794,[CH3:9][O:10][C:11](=[O:12])[C-:13]([CH3:14])[O+:15]=[C:16]([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[F:1][C:2]1=[CH:3][CH:4]2[CH2:5][CH2:6][CH:7]1[CH2:8]2>>[F:1][C:2]12[CH:3]([CH:4]3[CH2:5][CH2:6][CH:7]1[CH2:8]3)[C:13]([C:11]([O:10][CH3:9])=[O:12])([CH3:14])[O:15][C:16]2([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1,water,298.15,20.106597582616303,-47.06670528614132
1273,1392,[CH3:12][O:13][C:14](=[O:15])[C:16]([C:17]([CH3:18])=[O:19])=[N+:20]([CH3:21])[CH-:22][C:23]([CH3:24])=[O:25].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[CH:6][CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[CH:6]([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[CH:22]([C:23]([CH3:24])=[O:25])[N:20]([CH3:21])[C:16]2([C:14]([O:13][CH3:12])=[O:15])[C:17]([CH3:18])=[O:19],water,298.15,26.85005422563288,-22.71565733653272
5145,5843,[CH3:10][C:11](=[O:12])[C:13](=[O+:14][C-:15]([c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[C:28]([CH3:29])=[O:30].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:15]([c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)([c:22]2[cH:23][cH:24][cH:25][cH:26][cH:27]2)[O:14][C:13]1([C:11]([CH3:10])=[O:12])[C:28]([CH3:29])=[O:30],water,298.15,31.055256507062985,-12.47823845593364
2186,2424,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]#[C:11][C:12]([F:13])([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[CH2:20][CH2:21][CH2:22][CH2:23]1.[CH:24]#[N+:25][CH-:26][c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]2=[C:11]([C:12]([F:13])([c:14]3[cH:15][cH:16][cH:17][cH:18][cH:19]3)[CH2:20][CH2:21][CH2:22][CH2:23]1)[CH:26]([c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1)[N:25]=[CH:24]2,water,298.15,3.710772708082054,-76.0538472087788
5221,5924,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([C:15]([CH3:16])=[O:17])[N+:18]([CH3:19])=[C:20]([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([NH:11][CH3:10])=[O:13])([C:15]([CH3:16])=[O:17])[N:18]([CH3:19])[C:20]1([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1,water,298.15,50.36394609558335,3.9086699997793866
438,480,[CH3:15][O:16][C:17](=[O:18])[CH-:19][N+:20]#[N:21].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([C:7]([CH3:8])=[O:9])([CH:10]3[CH:11]=[CH:12][CH:13]1[O:14]3)[CH:19]([C:17]([O:16][CH3:15])=[O:18])[N:20]=[N:21]2,water,298.15,22.681318336650875,-16.197541828106885
2468,2736,[CH3:13][C:14]([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)=[N+:21]([CH3:22])[C-:23]([c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)[c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1.[CH3:1][C:2](=[O:3])[C:4]1([CH3:5])[C:6]#[C:7][CH2:8][CH2:9][CH2:10][CH2:11][CH2:12]1>>[CH3:1][C:2](=[O:3])[C:4]1([CH3:5])[C:6]2=[C:7]([CH2:8][CH2:9][CH2:10][CH2:11][CH2:12]1)[C:14]([CH3:13])([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[N:21]([CH3:22])[C:23]2([c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)[c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1,water,298.15,26.1407858172465,-46.6053622289957
2725,3027,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]#[C:11][C:12]([Cl:13])([O:14][CH3:15])[CH2:16][CH2:17][CH2:18][CH2:19]1.[CH3:20][O:21][C:22](=[O:23])[C:24]([C:25]#[N:26])=[O+:27][C-:28]([C:29](=[O:30])[O:31][CH3:32])[C:33](=[O:34])[O:35][CH3:36]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]2=[C:11]([C:12]([Cl:13])([O:14][CH3:15])[CH2:16][CH2:17][CH2:18][CH2:19]1)[C:24]([C:22]([O:21][CH3:20])=[O:23])([C:25]#[N:26])[O:27][C:28]2([C:29](=[O:30])[O:31][CH3:32])[C:33](=[O:34])[O:35][CH3:36],water,298.15,5.985999902117768,-62.96011636634768
